US09382188B2
D) 4′-(benzyloxy)-3′-(1-chloro-3,3-dimethylbutyl)-2-fluoro-5-methoxy-1,1′-biphenyl
To a solution of 1-(4-(benzyloxy)-2′-fluoro-5′-methoxy-[1,1′-biphenyl]-3-yl)-3,3-dimethylbutan-1-ol (1.00 g) in toluene (10 mL) was added thionyl chloride (437 mg), and the mixture was stirred at 70° C. for 1 hr. The solvent was evaporated under reduced pressure to give the title compound as a crude product. This compound was used for the next step without further purification.

reactant | 1-(4-(benzyloxy)-2′-fluoro-5′-methoxy-[1,1′-biphenyl]-3-yl)-3,3-dimethylbutan-1-ol | 1.00 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C1=C(C=CC(=C1)OC)F)C(CC(C)(C)C)O | C26H29FO3
reactant | thionyl chloride | 437 mg | S(=O)(Cl)Cl | Cl2OS
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 4′-(benzyloxy)-3′-(1-chloro-3,3-dimethylbutyl)-2-fluoro-5-methoxy-1,1′-biphenyl | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C1=C(C=CC(=C1)OC)F)C(CC(C)(C)C)Cl | C26H28ClFO2
